US05157034
3:1 Mixture of trans and cis-5-(Methoxycarbonyl)piperidine-2-carboxylic Acid
Dimethyl cis-piperidine-2,5-dicarboxylate (112 g, 0.56 mol), salicylaldehyde (3 ml, 0.056 mol) and glacial acetic acid (600 ml) were combined and the resulting mixture heated at about 100° C. for 60 hours. The mixture was cooled, than stripped in vacuo to a thick oil from which 61.7 g (59%) of title products crystallized upon stirring with 800 ml of isopropyl alcohol. Product ratio was determined by 1H-NMR (D2O, 300 MHz), a peak at 3.13 ppm (t, 1H, J=14.5 Hz) being diagnostic of trans, and a peak at 3.33 ppm (dd, 1H) being diagnostic of cis.

reactant | Dimethyl cis-piperidine-2,5-dicarboxylate | 0.56 mol, 112 g | N1[C@H](CC[C@H](C1)C(=O)OC)C(=O)OC | C9H15NO4
reactant | salicylaldehyde | 0.056 mol, 3 ml | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | cis-5-(Methoxycarbonyl)piperidine-2-carboxylic Acid | COC(=O)[C@@H]1CC[C@@H](NC1)C(=O)O | C8H13NO4
